US07572928B2
To a round-bottomed flask containing 1-phenyl-hex-5-en-3-ol (495 mg, 2.8 mmol, 1 eq) in DCM (12 mL) was added allyltrimethylsilane (1.79 mL, 11.2 mmol, 4 eq). Hoveyda-Grubbs' Catalyst (44 mg, 0.07 mmol, 0.025 eq) was subsequently added as a solid and left to stir at room temperature under an atmosphere of argon. After 72 hours a further equivalent of allyltrimethylsilane was added (0.445 mL, 2.78 mmol). After 7 days the reaction mixture was concentrated under reduced pressure to a dark brown oil. Column chromatography (hexane:ether, 100:0, 9:1, 85:15) gave 1-phenyl-7-(trimethylsilyl)-hept-5-en-3-ol as a colourless oil (445 mg, 61% yield). For major isomer E: 1H NMR (400 MHz, CDCl3) δ 0.006 (s, 9H, SiMe3), 1.47-1.49 (d, 2H, CH2SiMe3, J=8 Hz), 1.74-1.84 (mn, 2H, CH2CH2CHOH), 2.06-2.14 (m, 1H, CHOHCH2CH), 2.20-2.31 (m, 1H, CHOHCH2CH), 2.66-2.74 (m, 1H, PhCH2), 2.79-2.86 (m, 1H, PhCH2), 3.57-3.63 (m, 1H, CHOH), 5.21-5.28 (dt, 1H, CH2CHCH, J=15.2 Hz, 8 Hz), 5.50-5.58 (dt, 1H, CH2CHCH, J=15.2 Hz, 8 Hz), 7.18-7.24 (m, 3H, Ph), 7.27-7.31 (m, 2H, Ph); 13C NMR (100 MHz, CDCl3) δ −2.0 (SiMe3), 23.0 (CH2SiMe3), 32.1 (PhCH2), 38.3 (PhCH2CH2), 41.0 (CHOHCH2), 70.2 (CHOH), 123.8 (CHCH), 125.7 (Ph), 128.4 (Ph), 130.9 (CHCH), 142.2 (Ph). For minor isomer Z: 1H NMR (400 MHz, CDCl3) δ 0.012 (s, 9H, SiMe3), 1.47-1.49 (d, 2H, CH2SiMe3, J=8 Hz), 1.74-1.84 (m, 2H, CH2CH2CHOH), 2.06-2.14 (m, 1H, CHOHCH2CH), 2.20-2.31 (m, 1H, CHOHCH2CH), 2.66-2.74 (m, 1H, PhCH2), 2.79-2.86 (m, 1H, PhCH2), 3.64-3.69 (m, 1H, CHOH), 5.30-5.35 (dt, 1H, CH2CHCH, J=10.4 Hz, 8 Hz), 5.61-5.66 (dt, 1H, CH2CHCH, J=10.4 Hz, 8 Hz), 7.18-7.24 (m, 3H, Ph), 7.27-7.31 (m, 2H, Ph); 13C NMR (100 MHz, CDCl3) δ −1.82 (SiMe3), 18.7 (CH2SiMe3), 32.1 (PhCH2), 31.5 (CHOHCH2), 38.4 (PhCH2CH2), 70.8 (CHOH), 122.4 (CHCH), 125.7 (Ph), 128.3 (Ph), 129.3 (CHCH), 142.1 (Ph); IR (v, cm−1) 3383 (OH), 3063 (ArH), 1667 (C═C), 1604 (Ar), 1496 (Ar), 850 (Si—C). MS (GCT, CI+) m/z 280.2101 [M+NH4]+ HRMS required for C16H26OSiNH4: 280.2097, found 280.2101.

reactant | 1-phenyl-hex-5-en-3-ol | 2.8 mmol, 495 mg, 1 eq | C1(=CC=CC=C1)CCC(CC=C)O | C12H16O
reactant | allyltrimethylsilane | 11.2 mmol, 1.79 mL, 4 eq | C(C=C)[Si](C)(C)C | C6H14Si
reactant | hexane | CCCCCC | C6H14
reactant | ether | CCOCC | C4H10O
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
catalyst | Hoveyda-Grubbs' Catalyst | 0.07 mmol, 44 mg, 0.025 eq | CC1=CC(=C(C(=C1)C)N2CCN(C2=[Ru](=CC3=C(C=CC=C3)OC(C)C)(Cl)Cl)C4=C(C=C(C=C4C)C)C)C
product | 1-phenyl-7-(trimethylsilyl)-hept-5-en-3-ol | 445 mg, 61% yield | C1(=CC=CC=C1)CCC(CC=CC[Si](C)(C)C)O | C16H26OSi
